US06057311
c. 9-tert-butyloxycarbonylmethyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
2-Benzyloxycarbonyl-9-tert-butyloxycarbonylmethyl-1,2,3,4-tetrahydro-9H-pyrido-[3,4-b]indole (3.28 g, 7.81 mmol) was stirred under an atmosphere of hydrogen in the presence of 10% palladium on charcoal (500 mg) in methanol (30 ml) at room temperature for two hours. The reaction mixture was filtered through a pad of celite and evaporated to dryness affording the product. (2.14 g, 96%).

reactant | 2-Benzyloxycarbonyl-9-tert-butyloxycarbonylmethyl-1,2,3,4-tetrahydro-9H-pyrido-[3,4-b]indole | 7.81 mmol, 3.28 g | C(C1=CC=CC=C1)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC(=O)OC(C)(C)C | C25H28N2O4
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 9-tert-butyloxycarbonylmethyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | C(C)(C)(C)OC(=O)CN1C2=C(C3=CC=CC=C13)CCNC2 | C17H22N2O2
